US04997840
2-Propanesulphonyl chloride (1.74 ml) was added to a stirred mixture of 7-fluoro-3-hydroxy-1-methyl-4quinolone (3.0 g), obtained as described in Example 3 a-f, triethylamine (4.35 ml) and dry dichloromethane (180 ml) and the mixture stirred at ambient temperature for 24 hours. Further quantities of 2-propanesulphonyl chloride (1.75 ml then 1 ml) and triethylamine (4.35 ml then 2.5 ml) were added after stirring for 24 hours and 48 hours respectively. After stirring for a further 24 hours, the mixture was filtered and the filter bed was washed with dichloromethane (30 ml). The combined filtrate and washing were washed with water (200 ml), saturated aqueous sodium bicarbonate (2×200 ml), then water (200 ml) and then dried over magnesium sulphate. The dichloromethane was removed by distillation to give a residue which was purified by flash chromatography on a silica gel column eluted with dichloromethane: industrial methylated spirit (19:1) followed by crystallisation from 2-propanol (25 ml) to give the novel compound 7-fluoro-1-methyl-4-oxo-1,4-dihydroquinol-3-yl 2-propanesulphonate, m.p. 130°-133°.

reactant | 2-Propanesulphonyl chloride | 1.74 ml | CC(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | 7-fluoro-3-hydroxy-1-methyl-4quinolone | 3.0 g | FC1=CC=C2C(C(=CN(C2=C1)C)O)=O | C10H8FNO2
reactant | dichloromethane | 180 ml | ClCCl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 4.35 ml | C(C)N(CC)CC | C6H15N
product | 7-fluoro-1-methyl-4-oxo-1,4-dihydroquinol-3-yl 2-propanesulphonate | CC(C)S(=O)(=O)OC1=CN(C2=CC(=CC=C2C1=O)F)C | C13H14FNO4S
